US07053212B2
Step A: 4-Bromo-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-2-trifluoromethoxy-benzenesulfonamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.060 g, 0.15 mmol) in 0.4 mL methylene chloride was added triethylamine (0.06 mL, 0.45 mmol) and 4-bromo-2-trifluoromethoxybenzenesulfonyl chloride (0.103 g, 0.3 mmol). The reaction mixture was stirred at room temperature for 24 hr. PS-isocyanate resin (0.050 g) and PS-trisamine resin (0.050 g) were added and the reaction mixture was stirred for 2 hr. at room temperature. The resin was filtered off with the aid of methylene chloride. The filtrate was concentrated to afford the title compound of Step A (0.106 g). MS 700.8 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.15 mmol, 0.060 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 0.45 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-trifluoromethoxybenzenesulfonyl chloride | 0.3 mmol, 0.103 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | isocyanate | 0.050 g | [N-]=C=O
reactant | trisamine | 0.050 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | methylene chloride | 0.4 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-2-trifluoromethoxy-benzenesulfonamide | 0.106 g | BrC1=CC(=C(C=C1)S(=O)(=O)N(CC1=CC(=CC=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1)OC(F)(F)F | C31H34BrF3N2O6S
